* C:\git\ltspice-projects\Moog filter - xm8 half volt octave.asc
Q1 N020 N022 N024 0 BC547C
Q2 N015 N017 N020 0 BC547C
Q3 N007 N011 N015 0 BC547C
Q4 N009 N011 N016 0 BC547C
Q5 N016 N017 N021 0 BC547C
Q6 N021 N022 N025 0 BC547C
C1 N016 N015 22n
C2 N021 N020 22n
C3 N025 N024 22n
C4 N009 N007 22n
Q7 15V N001 N009 0 CA3046
Q8 15V N001 N007 0 CA3046
V1 15V 0 15
R1 N017 N022 1k
R2 N011 N017 1k
R3 N001 N011 1k
R4 15V N001 5k9
Q9 N024 N029 N032 0 CA3046
Q10 N025 N030 N032 0 CA3046
R5 N032 N040 1k
R6 N029 N036 1k
R7 N022 N036 1k
R8 N030 N036 1k
V2 0 -15V 15
C7 N028 N026 10µ V=63 Irms=200m Rser=1.3 Lser=0
R19 N036 0 2k7
C8 N036 0 220µ V=63 Irms=200m Rser=1.3 Lser=0
V3 Audio 0 SINE(0 5 500) AC 1
V4 cv 0 4
XU2 N006 N004 N005 opamp Aol=100K GBW=10Meg
XU5 N014 N012 N013 opamp Aol=100K GBW=10Meg
XU6 N002 N008 N003 opamp Aol=100K GBW=10Meg
R9 N004 N007 0.1
R10 N012 N009 0.1
R11 N005 N006 10k
R12 N014 N006 50k
R13 N014 N013 10k
R14 N008 N005 10k
R15 N002 N013 10k
R16 0 N008 330k
R22 N002 N003 330k
C5 N010 N003 10µ V=63 Irms=200m Rser=1.3 Lser=0
C6 N003 N002 8.2p
R17 N029 N028 39k
XU7 N027 0 N026 opamp Aol=100K GBW=10Meg
R24 N026 N027 100k
R25 N027 Audio 100k
XU8 NC_01 N019 N018 N031 N023 15V -15V NC_02 NC_03 HALF13700
R26 N023 N030 1k
R27 N019 N018 51
R28 P001 N019 50k
XU1 0 15V P001 pot_lin Rtot=10K wiper=0.5
Q12 N033 0 N034 0 2N3906
R30 N035 N034 3k3
V5 N035 0 3
R29 N031 N033 10k
R31 N013 N019 200
R39 N005 N018 200
Q11 N039 N041 N042 0 CA3046
Q13 N040 0 N042 0 CA3046
R18 15V N039 1MEG
R20 N042 N043 2k2
C9 N043 N039 1n
XU3 N039 N044 N043 opamp Aol=100K GBW=10Meg
R21 N044 0 1000k
D1 N043 0 D
XU9 N038 0 N041 pot_lin Rtot=2K2 wiper=.825
XU10 N037 0 N038 opamp Aol=100K GBW=10Meg
R23 N038 N037 2k2
R32 N037 cv 50k
R33 N037 P002 220k
XU4 15V -15V P002 pot_lin Rtot=220K wiper=0.1
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
;tran 0 0.2 0
.lib opamp.sub
.lib LTC.lib
.lib lm13700.sub
* XM8 moog ladder filter\n0.5V octave\n13Hz to 13kHz with U4 at 0.1\nTODO: Test filter for self oscillation
;tran 0 0.05 0
;tran 0 0.1 0
.ac oct 100 10 20000
.lib potentiometer_standard.lib
.backanno
.end
